US08865744B1
2.40 g (13.5 mmol) of 1-methanesulfonyl-piperidin-4-ylamine are dissolved in DMF (32.8 mL). 5.58 g (40.4 mmol) of K2CO3, 3.06 mL (20.2 mmol) ethyl-2-bromoisobutyrate and 1.12 g (6.73 mmol) of KI are added at RT. The reaction is stirred 16 h. Additional ethyl-2-bromoisobutyrate (3.06 mL) and KI (1.12 g) are added and the reaction mixture is stirred for further 16 h. Water and sat. aq. K2CO3 solution is added, the aqueous layer extracted with EE. The combined organic layers are dried over MgSO4 and filtered. The solvent is removed under reduced pressure to afford the crude product, which is purified by silica gel chromatography (eluent: EE/MeOH 95/5) to afford 0.56 g of 2-(1-methanesulfonyl-piperidin-4-ylamino)-2-methyl-propionic acid ethyl ester. Yield: 14%; ESI-MS: 293 [M+H]+; HPLC (Rt): 0.97 min (method E)

reactant | 1-methanesulfonyl-piperidin-4-ylamine | 13.5 mmol, 2.40 g | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
reactant | K2CO3 | 40.4 mmol, 5.58 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl-2-bromoisobutyrate | 20.2 mmol, 3.06 mL | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | ethyl-2-bromoisobutyrate | 3.06 mL | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | Water | O | H2O
solvent | DMF | 32.8 mL | CN(C)C=O | C3H7NO
product | 2-(1-methanesulfonyl-piperidin-4-ylamino)-2-methyl-propionic acid ethyl ester | 0.56 g, Yield: 14% | C(C)OC(C(C)(C)NC1CCN(CC1)S(=O)(=O)C)=O | C12H24N2O4S
